US09193935B2
1-Methyl-4-(4-methyltridec-2-enyl)benzene
p-Methylphenethyltriphenylphosphonium bromide (2.90 g, 6.29 mmol, 1.0 equiv.) in THF (12 mL), was cooled to 0° C. After adding n-BuLi (1.6 M in hexanes, 3.9 mL, 6.29 mmol, 1.0 equiv.) at 0° C., the red solution was stirred at 65° C. for 1 h. The mixture was re-cooled to 0° C., 2-methylundecanal (1.74 g, 9.43 mmol, 1.5 equiv.) in THF (5 mL) was added, and the mixture was stirred at 65° C. for 16 h. After addition of H2O, the aqueous layer was extracted with cyclohexane (2×), the combined organic phases were washed with brine, dried (MgSO4), filtered and the filtrate was concentrated. The residue was purified by flash chromatography on SiO2 (cyclohexane/EtOAc 997:3) to yield 1.24 g (69%) of the title compound as a colorless oil.

reactant | p-Methylphenethyltriphenylphosphonium bromide | 6.29 mmol, 2.90 g, 1.0 equiv. | [Br-].CC1=CC=C(CC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | n-BuLi | 6.29 mmol, 1.6 M, 3.9 mL, 1.0 equiv. | [Li]CCCC
reactant | 2-methylundecanal | 9.43 mmol, 1.74 g, 1.5 equiv. | CC(C=O)CCCCCCCCC | C12H24O
reactant | H2O | O | H2O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-Methyl-4-(4-methyltridec-2-enyl)benzene | 1.24 g, 69% | CC1=CC=C(C=C1)CC=CC(CCCCCCCCC)C | C21H34
